US05780500
1-(7-Chloro-dibenz[b,f]oxepin-10-ylmethyl)-pyrrolidine hydrochloride
Preparation analogous to Example 2 from 10-bromomethyl-7-chloro-dibenz[b,f]oxepine and pyrrolidine. Yield: 5%, melting point:>225° C. decomposition. 1H-NMR (CD3OD, 200 MHz): 1.95-2.20 (m, 4H); 3.25 (m 2H); 3.55 (m, 2H), 4.52 (s, 2H), 7.20-7.45 (m, 7H); 7.60 (d, 1H). MS: 311 (M+, free base), 244, 242, 241, 215, 205, 178, 176, 163, 152.

reactant | 10-bromomethyl-7-chloro-dibenz[b,f]oxepine | BrCC1=CC2=C(OC3=C1C=CC(=C3)Cl)C=CC=C2 | C15H10BrClO
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 1-(7-Chloro-dibenz[b,f]oxepin-10-ylmethyl)-pyrrolidine hydrochloride | Yield: 5% | Cl.ClC1=CC2=C(C(=CC3=C(O2)C=CC=C3)CN3CCCC3)C=C1 | InChI=1S/C19H18ClNO.ClH/c20-16-7-8-17-15(13-21-9-3-4-10-21)11-14-5-1-2-6-18(14)22-19(17)12-16;/h1-2,5-8,11-12H,3-4,9-10,13H2;1H
